US04028374
6-Methyl-2[3-(p-nitrophenyl)ureido]-4-thiocyanatobenzothiazole
A mixture of 2-amino-6-methyl-4-thiocyanatobenzothiazole (35 g., 0.16 mole) in dimethylformamide (250ml.) was treated slowly with p-nitrophenyl isocyanate (27 g., 0.16 mole). The reaction was then heated under stirring on the steam bath for 5 hours. The mixture was then filtered hot. The solution was chilled in an ice bath and filtered. The product was combined with the solid initially filtered to give 40 g. (65%) of off-white solid.

reactant | 2-amino-6-methyl-4-thiocyanatobenzothiazole | 0.16 mole, 35 g | NC=1SC2=C(N1)C(=CC(=C2)C)SC#N | C9H7N3S2
reactant | p-nitrophenyl isocyanate | 0.16 mole, 27 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
solvent | dimethylformamide | 250ml | CN(C=O)C | C3H7NO
product | 6-Methyl-2[3-(p-nitrophenyl)ureido]-4-thiocyanatobenzothiazole | CC1=CC2=C(N=C(S2)NC(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C(=C1)SC#N | C16H11N5O3S2
